US06642250B2
To a suspension of 3-hydroxymethyl-6-methyl-2-(3-nitrophenylamino)pyridine (11.05 g, 42.62 mmol) in chloroform (200 ml) was added manganese dioxide (50 g), and the mixture was stirred overnight and filtered to remove an insoluble. Evaporation of the solvent from the filtrate gave a residue. Recrystallization of the resultant residue from acetonitrile gave 6-methyl-2-(3-nitrophenylamino)nicotinaldehyde (7.90 g, 72%).

reactant | 3-hydroxymethyl-6-methyl-2-(3-nitrophenylamino)pyridine | 42.62 mmol, 11.05 g | OCC=1C(=NC(=CC1)C)NC1=CC(=CC=C1)[N+](=O)[O-] | C13H13N3O3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 50 g | [O-2].[O-2].[Mn+4]
product | 6-methyl-2-(3-nitrophenylamino)nicotinaldehyde | 7.90 g, 72% | CC1=NC(=C(C=O)C=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C13H11N3O3
